US05859007
To a stirring solution of 2.0 g (10.30 mmol) of 4,5,6,7-Tetrahydro-1H-indazole-3-carboxylic acid ethyl ester (Ainsworth, C. J. Am. Chem. Soc. 1957, 79, 5242) in 50 mL of DMF is added 1.85 g (13.838 mmol, 1.3 equiv) of K2CO3, followed by 1.35 mL (11.33 mmol, 1.1 equiv) of benzyl bromide. The reaction mixture is stirred 15 min at RT then heated at 60° C. for 16 h. The reaction is cooled to RT, poured into 100 mL 1N HCl, and extracted with Et2O (2×100 mL). The organic layers were washed with H2O (2×100 mL), dried (MgSO4), and the solvent removed in vacuo. Purification of the crude material by silica gel flash column chromatography using a gradient elution of hexane/EtOAc 6/1 to 3/1 afforded 1.05 g of 4,5,6,7-Tetrahydro-1-Benzyl-1H-indazole-3-carboxylic acid ethyl ester as a yellow oil which later solidified: 1H NMR (CDCl3, 300 MHz) δ7.37-7.23 (m, 3H), 7.13 (m, 2H), 5.31 (s, 2H), 4.39 (q, 2H, J=7.2), 2.74 (m, 2H), 2.40 (m, 2H), 1.72 (m, 4H), 1.39 (t, 3H, J=7.2).

reactant | 4,5,6,7-Tetrahydro-1H-indazole-3-carboxylic acid ethyl ester | 10.30 mmol, 2.0 g | C(C)OC(=O)C1=NNC=2CCCCC12 | C10H14N2O2
reactant | K2CO3 | 13.838 mmol, 1.85 g, 1.3 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 11.33 mmol, 1.35 mL, 1.1 equiv | C(C1=CC=CC=C1)Br | C7H7Br
reactant | HCl | 1N, 100 mL | Cl | ClH
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4,5,6,7-Tetrahydro-1-Benzyl-1H-indazole-3-carboxylic acid ethyl ester | 1.05 g | C(C)OC(=O)C1=NN(C=2CCCCC12)CC1=CC=CC=C1 | C17H20N2O2
